US05036153
(2S,4R)-1-(Carbobenzyloxy)-2-(4-toluenesulfonyloxymeth- yl)-4-(4-toluenesulfonyloxy)-pyrrolidine
To an ice-cold solution of 150 g (596.9 mmol) of (2R,4S)-2-hydroxymethyl-4-hydroxy-N-(carbobenzyloxy)pyrrolidine in 0.5 1 of pyridine was added 250 g (1.32 mol) of 4-toluenesulfonyl chloride in 3 portions to keep the temperature of the reaction below 15° C. for 1 hour and then warmed to room temperature. After 12 hours, an additional 125 g (656 mmol) of p-toluenesulfonyl chloride was added and the mixture was allowed to stir at room temperature for 16 additional hours. The mixture was then cooled with an ice bath and 3 1 of 10% aqueous HC1 solution was carefully added. The mixture was extracted with 2 x 250 ml of methylene chloride and dried over MgSO4. Evaporation of the solvent provided 274 g of the product as an oil (82% yield). NMR(CDC13): 7.70 & 7.40 (m,9H, aromatic), 5.0 (m,3H), 4.43 (dd,1H), 4.12 (m,1H), 4.02 (m,H), 3.70 (m,1H), 3.88 (m,1H), 2.42 (m,6H), 2.15 (m,2H).

reactant | (2R,4S)-2-hydroxymethyl-4-hydroxy-N-(carbobenzyloxy)pyrrolidine | 596.9 mmol, 150 g | OC[C@@H]1N(C[C@H](C1)O)C(=O)OCC1=CC=CC=C1 | C13H17NO4
reactant | 4-toluenesulfonyl chloride | 1.32 mol, 250 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | p-toluenesulfonyl chloride | 656 mmol, 125 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | (2S,4R)-1-(Carbobenzyloxy)-2-(4-toluenesulfonyloxymeth- yl)-4-(4-toluenesulfonyloxy)-pyrrolidine | 274 g, 82% yield | C(=O)(OCC1=CC=CC=C1)N1[C@@H](C[C@H](C1)OS(=O)(=O)C1=CC=C(C=C1)C)COS(=O)(=O)C1=CC=C(C=C1)C | C27H29NO8S2
